US08258130B2
A flask containing 2-cyanopyrimidine (16.6 g, 158 mmol), ammonium acetate (14.6 g, 189.6 mmol) and N-acetylcysteine (2.58 g, 15.8 mmol) and ethanol (160 mL) is heated to reflux. After 1.25 h, the reaction is allowed to cool slightly (to approximately 50° C.), and sodium tert-butoxide (15.18 g, 158 mmol) and ethanol (160 mL) are added. After stirring for 10 minutes, 2-dimethylaminomethylene-3-oxo-butyric acid ethyl ester (33.6 g, 181.7 mmol) is added. The reaction is then heated to reflux for an additional 2 h. The reaction is then allowed to cool to rt, and sodium hydroxide (12.6 g, 316 mmol) in water (50 mL) is added. After 2 h, the reaction is chilled in an ice water bath and the reaction pH is adjusted to 3 using a solution of 12M aqueous HCl. The reaction mixture is then reduced in vacuo to 100 mL. Additional water (100 mL) is added and the suspension is chilled in an ice water bath, filtered and the solids are washed with minimal chilled water. The solids are then dried in vacuo to afford 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid (85%). MS: 217 (M+H); 1H NMR (300 MHz, CDCl3): δ=2.80 (s, 3H), 7.66 (t, 1H), 9.01 (d, 2H), 9.14 (s, 1H).

reactant | 2-cyanopyrimidine | 158 mmol, 16.6 g | C(#N)C1=NC=CC=N1 | C5H3N3
reactant | ammonium acetate | 189.6 mmol, 14.6 g | C(C)(=O)[O-].[NH4+]
reactant | N-acetylcysteine | 15.8 mmol, 2.58 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
reactant | sodium tert-butoxide | 158 mmol, 15.18 g | CC(C)([O-])C.[Na+]
reactant | 2-dimethylaminomethylene-3-oxo-butyric acid ethyl ester | 181.7 mmol, 33.6 g | C(C)OC(C(C(C)=O)=CN(C)C)=O | C9H15NO3
reactant | sodium hydroxide | 316 mmol, 12.6 g | [OH-].[Na+]
reactant | HCl | 12M | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | water | 100 mL | O | H2O
solvent | ethanol | 160 mL | C(C)O | C2H6O
solvent | ethanol | 160 mL | C(C)O | C2H6O
product | 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid | 85% | CC1=NC(=NC=C1C(=O)O)C1=NC=CC=N1 | C10H8N4O2
